US07265120B2
To a suspension of NaH (60% in oil suspension) (33.6 mg) in 1,2-dimethyl-2-imidazolidinone (0.6 ml) was added 2-phenylethanol (0.101 ml) and the mixture was stirred at 25-30° C. for 30 minutes. 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-methyl-3(2H)-pyridazinone (150 mg) was added and the mixture was heated at 100-105° C. for 15 hours. To the mixture was added 0.1N HCl (3 ml) and a precipitate was collected by filtration. The precipitate was suspended in CHCl3 and collected by filtration to give 6-(5-amino-6-hydroxy-3-phenyl-2-pyrazinyl)-2-methyl-3(2H)-pyridazinone (60 mg). The CHCl3 solution was dried over MgSO4, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give 6-[5-amino-3-phenyl-6-(2-phenylethoxy)-2-pyrazinyl]-2-methyl-3(2H)-pyridazinone (7 mg).

reactant | NaH | 33.6 mg | [H-].[Na+]
reactant | 2-phenylethanol | 0.101 ml | C1(=CC=CC=C1)CCO | C8H10O
reactant | 6-[5-Amino-6-(methylsulfonyl)-3-phenyl-2-pyrazinyl]-2-methyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1S(=O)(=O)C)C=1C=CC(N(N1)C)=O)C1=CC=CC=C1 | C16H15N5O3S
reactant | HCl | 0.1N, 3 ml | Cl | ClH
product | 6-(5-amino-6-hydroxy-3-phenyl-2-pyrazinyl)-2-methyl-3(2H)-pyridazinone | 60 mg | NC=1N=C(C(=NC1O)C=1C=CC(N(N1)C)=O)C1=CC=CC=C1 | C15H13N5O2
